US08076336B2
6-(1-Ethylpropoxy)-8,9-dihydro-7H-cyclopenta[d][1,2,4]triazolo[4,3-b]pyridazin-3-ylamine
3-Pentanol (20 ml) was initially charged under argon, admixed with sodium hydride (991 mg) and stirred at 50° C. for 1 h. Subsequently, 6-chloro-8,9-dihydro-7H-cyclopenta[d][1,2,4]-triazolo[4,3-b]pyridazin-3-ylamine hydrobromide (W2.017, 2.0 g), dissolved in 3-pentanol (20 ml) and DMF (100 ml), was slowly added dropwise within 1 h. After stirring for 1 h, the mixture was concentrated, and the residue was admixed with water and extracted four times with dichloromethane. The combined organic phases were dried over magnesium sulfate, filtered and concentrated. The residue was purified using a 40 g silica gel cartridge (dichloromethane-methanol gradient 0-10% in 50 min). The clean product fractions were combined and dried. 1.04 g of the title compound were obtained.

reactant | sodium hydride | 991 mg | [H-].[Na+]
reactant | 6-chloro-8,9-dihydro-7H-cyclopenta[d][1,2,4]-triazolo[4,3-b]pyridazin-3-ylamine hydrobromide | Br.ClC=1C2=C(C=3N(N1)C(=NN3)N)CCC2
reactant | 3-pentanol | 20 ml | CCC(CC)O | C5H12O
reactant | 3-Pentanol | 20 ml | CCC(CC)O | C5H12O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-(1-Ethylpropoxy)-8,9-dihydro-7H-cyclopenta[d][1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 1.04 g | C(C)C(CC)OC=1C2=C(C=3N(N1)C(=NN3)N)CCC2 | C13H19N5O
